US07579341B2
(R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-(1′-carboxymethyl-4,4′-bipiperidinyl-1-yl)-2-oxo-ethyl 4-(7-methoxy-2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 1 mg (0.04 mmol) LiOH in 1 mL water was added to a solution of 20 mg (0.02 mmol) (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-(1′-ethoxycarbonyl methyl-4,4′-bipiperidinyl-1-yl)-2-oxo-ethyl 4-(7-methoxy-2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 1 mL THF and the reaction mixture was stirred overnight at RT. To complete the reaction a solution of 1 mg LiOH in 1 mL water was again added and the mixture was stirred for another 3 h at RT. The solvents were eliminated in a nitrogen stream, the residue was taken up in a mixture of acetonitrile and water and the product was subjected to freeze-drying.

reactant | LiOH | 0.04 mmol, 1 mg | [Li+].[OH-]
reactant | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-(1′-ethoxycarbonyl methyl-4,4′-bipiperidinyl-1-yl)-2-oxo-ethyl 4-(7-methoxy-2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.02 mmol, 20 mg | COC=1C=CC2=C(CCN(C(N2)=O)C2CCN(CC2)C(=O)O[C@@H](C(=O)N2CCC(CC2)C2CCN(CC2)CC(=O)OCC)CC2=CC(=C(C(=C2)C(F)(F)F)N)Cl)C1 | C40H52ClF3N6O7
reactant | LiOH | 1 mg | [Li+].[OH-]
solvent | water | 1 mL | O | H2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-(1′-carboxymethyl-4,4′-bipiperidinyl-1-yl)-2-oxo-ethyl 4-(7-methoxy-2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | COC=1C=CC2=C(CCN(C(N2)=O)C2CCN(CC2)C(=O)O[C@@H](C(=O)N2CCC(CC2)C2CCN(CC2)CC(=O)O)CC2=CC(=C(C(=C2)C(F)(F)F)N)Cl)C1 | C38H48ClF3N6O7
